### PR TITLE
feat(RingTheory/AdicCompletion): AdicCompletion of Noetherian ring is Noetherian

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
For `I` an ideal of `R`, if `R/I` is Noetherian and `I` is finitely generated, the the completion of `R` wrt `I` is Noetherian.

---

- [x] depends on: #41556

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 1]
```diff
@@ -45,3 +59,254 @@ instance (priority := 100) {A : Type*} [CommRing A] [IsArtinianRing A] [IsLocalR
     specialize hf (show n ≤ m by lia)
     rw [hn, zero_smul, Ideal.zero_eq_bot, SModEq.bot] at hf
     rw [hf]
+
+lemma tensorProduct_reesAlgebra_isNoetherian_of_fg [IsNoetherianRing (R ⧸ I)] (fg : I.FG) :
+    IsNoetherianRing (TensorProduct R (R ⧸ I) (reesAlgebra I)) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean]: Can you use the notation for TensorProduct? Thanks.

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 2]
```diff
@@ -45,3 +59,254 @@ instance (priority := 100) {A : Type*} [CommRing A] [IsArtinianRing A] [IsLocalR
...
+          s • (⟨(Polynomial.monomial i) t, mem' i ht⟩: reesAlgebra I) := by
+          simp [Polynomial.smul_monomial]
+        rw [this, Algebra.smul_def]
+        exact Ideal.mul_mem_right _ _ (Ideal.mem_map_of_mem _ hs)
+      | add s1 hs1 s2 hs2 mem1 mem2 => simpa using add_mem mem1 mem2
+    apply this
+    simpa [pow_succ'] using h i
+
+/-- The canonical morphism from `reesAlgebra` to associated graded ring. -/
+noncomputable abbrev reesAlgebraToAssociatedGraded :=
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean]: Can you give this a type signature? Thanks.

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 3]
```diff
@@ -45,3 +59,254 @@ instance (priority := 100) {A : Type*} [CommRing A] [IsArtinianRing A] [IsLocalR
...
     rw [hn, zero_smul, Ideal.zero_eq_bot, SModEq.bot] at hf
     rw [hf]
+
+lemma tensorProduct_reesAlgebra_isNoetherian_of_fg [IsNoetherianRing (R ⧸ I)] (fg : I.FG) :
+    IsNoetherianRing (TensorProduct R (R ⧸ I) (reesAlgebra I)) := by
+  have : Algebra.FiniteType R (reesAlgebra I) := ⟨(reesAlgebra I).fg_top.mpr (reesAlgebra.fg fg)⟩
+  have := this.baseChange (R ⧸ I)
+  exact Algebra.FiniteType.isNoetherianRing (R ⧸ I) _
+
+lemma reesAlgebra_quotient_isNoetherian [IsNoetherianRing (R ⧸ I)] (fg : I.FG) :
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean]:
```suggestion
lemma isNoetherianRing_reesAlgebra_quotient [IsNoetherianRing (R ⧸ I)] (fg : I.FG) :
```

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 4]
```diff
@@ -45,3 +59,254 @@ instance (priority := 100) {A : Type*} [CommRing A] [IsArtinianRing A] [IsLocalR
...
+  rw [this] at coeff_eq
+  refine ⟨coeff', fun i ↦ ?_, fun i hi ↦ ?_, coeff_eq⟩
+  · by_cases degle : deg i ≤ n
+    · simp only [degle, coeff']
+      exact (mem_reesAlgebra_iff I _).mp (c' i).2 (n - deg i)
+    · simp [degle, coeff']
+  · simp [coeff', hi]
+
+lemma isNoetherianRing_of_isAdicComplete_of_fg [IsNoetherianRing (R ⧸ I)] (fg : I.FG)
+    (complete : IsAdicComplete I R) : IsNoetherianRing R := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean]:
```suggestion
    [IsAdicComplete I R] : IsNoetherianRing R := by
```

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 5]
```diff
@@ -17,7 +22,14 @@ public section
 
 open IsLocalRing Module
 
-variable {R : Type*} [CommRing R] (I : Ideal R) (M : Type*) [AddCommGroup M] [Module R M]
+universe u
+
+variable {R : Type u} [CommRing R] (I : Ideal R)
+
+section
```
Comment (faenuccio) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean:29]: I think that this section should rather live in `Mathlib.Topology.Algebra.Ring.Ideal`, no?

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 6]
```diff
@@ -45,3 +59,256 @@ instance (priority := 100) {A : Type*} [CommRing A] [IsArtinianRing A] [IsLocalR
     specialize hf (show n ≤ m by lia)
     rw [hn, zero_smul, Ideal.zero_eq_bot, SModEq.bot] at hf
     rw [hf]
+
+open TensorProduct in
+lemma tensorProduct_reesAlgebra_isNoetherian_of_fg [IsNoetherianRing (R ⧸ I)] (fg : I.FG) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean]: Most of these `ReesAlgebra` results have nothing to do with the adic completion, right? Can you peel them off into another PR?

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 7]
```diff
@@ -45,3 +59,256 @@ instance (priority := 100) {A : Type*} [CommRing A] [IsArtinianRing A] [IsLocalR
...
+    simp [coeff_mul_X_pow', coeff']
+  rw [this] at coeff_eq
+  refine ⟨coeff', fun i ↦ ?_, fun i hi ↦ ?_, coeff_eq⟩
+  · by_cases degle : deg i ≤ n
+    · simp only [degle, coeff']
+      exact (mem_reesAlgebra_iff I _).mp (c' i).2 (n - deg i)
+    · simp [degle, coeff']
+  · simp [coeff', hi]
+
+lemma isNoetherianRing_of_isAdicComplete_of_fg [IsNoetherianRing (R ⧸ I)] (fg : I.FG)
```
Comment (faenuccio) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean:208]: These are almost 70 lines of proof, can't you factor some results?

**Review by faenuccio — COMMENTED** [review]
I left some comments.

**Review by faenuccio — COMMENTED** [review]
awaiting-author

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean
Comment (faenuccio) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean:3]: I guess you need to add your name here.

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 8]
```diff
@@ -45,3 +59,256 @@ instance (priority := 100) {A : Type*} [CommRing A] [IsArtinianRing A] [IsLocalR
...
+lemma tensorProduct_reesAlgebra_isNoetherian_of_fg [IsNoetherianRing (R ⧸ I)] (fg : I.FG) :
+    IsNoetherianRing ((R ⧸ I) ⊗[R] (reesAlgebra I)) := by
+  have : Algebra.FiniteType R (reesAlgebra I) := ⟨(reesAlgebra I).fg_top.mpr (reesAlgebra.fg fg)⟩
+  have := this.baseChange (R ⧸ I)
+  exact Algebra.FiniteType.isNoetherianRing (R ⧸ I) _
+
+lemma isNoetherianRing_reesAlgebra_quotient [IsNoetherianRing (R ⧸ I)] (fg : I.FG) :
+    IsNoetherianRing ((reesAlgebra I) ⧸ I.map (algebraMap R (reesAlgebra I))) := by
+  have := tensorProduct_reesAlgebra_isNoetherian_of_fg I fg
+  exact isNoetherianRing_of_ringEquiv  _
```
Comment (faenuccio) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean]:
```suggestion
  exact isNoetherianRing_of_ringEquiv _
```

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean [hunk 9]
```diff
@@ -45,3 +59,256 @@ instance (priority := 100) {A : Type*} [CommRing A] [IsArtinianRing A] [IsLocalR
...
+    | smul r hr m hm =>
+      simpa [pow_succ'] using Ideal.mul_mem_mul hr ((mem_reesAlgebra_iff I _).mp m.2 n)
+    | add x hx y hy memx memy => simpa using add_mem memx memy
+  · have mem' (i : ℕ) {r : R} : r ∈ I ^ i → _ := fun mem ↦ monomial_mem_reesAlgebra I i mem
+    have mem (i : ℕ) := monomial_mem_reesAlgebra I i ((mem_reesAlgebra_iff I _).mp f.2 i)
+    have : f = ∑ i ∈ f.1.support, ⟨(Polynomial.monomial i) (f.1.coeff i), mem i⟩ :=
+      SetCoe.ext (by simpa using f.1.as_sum_support)
+    rw [this]
+    apply sum_mem (fun i hi ↦ ?_)
+    have {r : R} (h' : r ∈ I * I ^ i) : ⟨(Polynomial.monomial i) r,mem' i (Ideal.mul_le_left h')⟩
```
Comment (faenuccio) [inline Mathlib/RingTheory/AdicCompletion/Noetherian.lean]:
```suggestion
    have {r : R} (h' : r ∈ I * I ^ i) : ⟨(Polynomial.monomial i) r, mem' i (Ideal.mul_le_left h')⟩
```

**Review by faenuccio — COMMENTED** [review]
I added two more stylistic comments

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean (hunk 7 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/AdicCompletion/Noetherian.lean:208]: I'll try, but I probably need to explain about the proof itself first: by the lemma above using associated graded, it finds series of coefficients forming Cauchy sequence to approximate the final element step by step, this is just complicated by itself, or else we might need some auxilary defs...

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/AdicCompletion/Noetherian.lean:29]: This is also what I am not very sure about, should I add adic completion of Noetherian ring is Noetherian here?

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/RingTheory/AdicCompletion/Noetherian.lean:208]: OK, thanks!! You might have a look at the proof of `LaurentSeries.Cauchy.limit` (or friends around there) because it might give you an idea both on how to conceptualise the proof and on how to factor it.

**Comment by faenuccio** [comment]
Also, can I ask why you removed the `awaiting-author` tag? I see you factored out the part concerning Rees algebras but the "long proof" still requires some look from you, no?

**Comment by Thmoas-Guan** [comment]
> Also, can I ask why you removed the `awaiting-author` tag? I see you factored out the part concerning Rees algebras but the "long proof" still requires some look from you, no?

Sorry, I may got some misunderstanding on the usage of this tag, sorry.

File: Mathlib/RingTheory/AdicCompletion/Noetherian.lean (hunk 7 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/AdicCompletion/Noetherian.lean:208]: Sorry I wasn't inspired by the point you mentioned, but I split the cauchy sequence part, now both less than 30 lines of proof.
